US07238808B2
A mixture of ethyl 3-(4-chloro-phenyl)-3-oxo-propionate (5.8 g, 26.0 mmol) and 2H-pyrazol-3-ylamine (2.1 g, 26.0 mmol) was stirred at 150° C. for 2 h. EtOAc (22 mL) was successively added to the cooled mixture and stirring was continued at 0° C. for 0.5 h. The crystals were isolated by filtration to give 5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidin-7-ol (4.80 g, 75%) as a white solid. MS (ISP) 246.1 [(M+H)+]; mp 306–308° C.

reactant | ethyl 3-(4-chloro-phenyl)-3-oxo-propionate | 26.0 mmol, 5.8 g | ClC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11ClO3
reactant | 2H-pyrazol-3-ylamine | 26.0 mmol, 2.1 g | N=1NC(=CC1)N | C3H5N3
solvent | EtOAc | 22 mL | CCOC(=O)C | C4H8O2
product | 5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidin-7-ol | 4.80 g, 75% | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)O)N=CC2 | C12H8ClN3O
